US07138397B2
To 6 mL of a tetrahydrofuran solution containing 1.0 g of trans-4-(tert-butoxycarbonylamino)cyclohexanol and 873 mg of benzylbromide was gradually added 204 mg of 60% sodium hydride, 0.5 mL of dimethyl sulfoxide was then further added thereto, and the mixture was stirred at 70° C. for 2 hours. The reaction mixture was poured into water and extracted with chloroform. The extract was washed with water and brine, dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure. The residue was applied to silica gel column chromatography (solvent: hexane-ethyl acetate (4:1)), and the obtained powdery crystals were suspended in an ethyl acetate-hexane mixed solvent, and collected by filtration to obtain trans-1-tert-butoxycarbonylamino-4-(benzyloxy)cyclohexane.

reactant | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
reactant | trans-4-(tert-butoxycarbonylamino)cyclohexanol | 1.0 g | C(C)(C)(C)OC(=O)N[C@@H]1CC[C@H](CC1)O | C11H21NO3
reactant | benzylbromide | 873 mg | C(C1=CC=CC=C1)Br | C7H7Br
reactant | sodium hydride | 204 mg | [H-].[Na+]
solvent | water | O | H2O
solvent | dimethyl sulfoxide | 0.5 mL | CS(=O)C | C2H6OS
product | trans-1-tert-butoxycarbonylamino-4-(benzyloxy)cyclohexane | C(C)(C)(C)OC(=O)N[C@@H]1CC[C@H](CC1)OCC1=CC=CC=C1 | C18H27NO3
